US04000273
The compound 17β-hydroxy-7α-methylestr-4-en-3-one acetate, prepared in accordance with the preceding Example, is dissolved in 400 ml of methanol containing 9.5 g of sodium methoxide. The yellow solution is stirred for 2 hours at room temperature under nitrogen and poured onto an ice-water mixture. The solid which forms is filtered and recrystallized from an acetone-hexane mixture to yield 11.3 g (two crops) of 17β-hydroxy-7α-methylestr-4-en-3-one having a melting point of 144°-6° C.

reactant | 17β-hydroxy-7α-methylestr-4-en-3-one acetate | C(C)(=O)O.O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(CC[C@@H]3[C@H]1CC2)=O)C
solvent | methanol | 400 ml, 9.5 g | CO | CH4O
solvent | sodium methoxide | C[O-].[Na+]
product | 17β-hydroxy-7α-methylestr-4-en-3-one | 11.3 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(CC[C@@H]3[C@H]1CC2)=O)C | C19H28O2
